US05569640
a) 5-Chloro-2,2-dimethyl-4H-[3,1]benzoxathiin-4-one
20 g (106 mmol) of 2-chloro-6-mercaptobenzoic acid, 26 ml (212 mmol) of 2,2-dimethoxypropane and 2 g of Amberlyst 15 (strongly acidic ion exchange resin) are refluxed in 1 l of toluene for 3 h. 100 ml are then distilled off in the course of 2 h, a further 10 ml of 2,2-dimethoxypropane are added, boiling is continued for a short time, and the mixture is stirred overnight at room temperature, filtered and concentrated in vacuo. Yield: 22.4 g (92%) of oil, 1H-NMR (CDCl3) δ=1.82 (s); 7.18-7.40 (m).

reactant | 2-chloro-6-mercaptobenzoic acid | 106 mmol, 20 g | ClC1=C(C(=O)O)C(=CC=C1)S | C7H5ClO2S
reactant | 2,2-dimethoxypropane | 212 mmol, 26 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2,2-dimethyl-4H-[3,1]benzoxathiin-4-one | ClC1=CC=CC2=C1C(OC(S2)(C)C)=O | C10H9ClO2S
